US06069143
a) methyl 4-piperidinecarboxylate hydrochloride
Isonipecotic acid (40 g, 310 mmol) was suspended, with stirring, in 250 mL of dry methanol and treated with HCl gas (lecture bottle) until solution was obtained. The solution was then cooled in an ice bath and treatment with HCl gas continued for an additional 20 min. After 2.5 h, the reacion mixture was stripped of solvent using a water aspirator (30° C.) and the resulting heavy, white cake suspended in 150 mL dry THF and filtered. The filter cake was washed with two portions of 50 mL THF, followed by washing with 3×50 ml Et2O, dried briefly in air (suction). The pale-yellow filtrate was discarded. Drying the slightly off-white solid was completed over-night in a desiccator (CaSO4) under high vacuum. The title compound (43.25 g) was obtaind analytically pure. Anal. (C7H14ClNO2) calcd: C, 46.80; H, 7.86; N, 7.80; Cl, 19.73. found C, 46.66; H, 7.78; N, 19.82. TLC Rf=0.63 (silica gel, 3:1 ethanol/conc. aq. ammonium hydroxide).

reactant | Isonipecotic acid | 310 mmol, 40 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | HCl | Cl | ClH
reactant | water | O | H2O
reactant | methanol | 250 mL | CO | CH4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | methyl 4-piperidinecarboxylate hydrochloride | Cl.N1CCC(CC1)C(=O)OC | InChI=1S/C7H13NO2.ClH/c1-10-7(9)6-2-4-8-5-3-6;/h6,8H,2-5H2,1H3;1H
